US05962458
3-(Chloromethyl)pyridine hydrochloride (328 mg, 2 mmol) was added to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (319.5 mg, 1 mmol), (prepared as described for the starting material in Example 24), potassium carbonate (442 mg, 3.2 mmol) and potassium iodide (33 mg, 0.2 mmol) in DMF (25 ml) at ambient temperature and the reaction mixture then heated at 80° C. for 2.5 hours. The mixture was allowed to cool and the volatiles were removed by evaporation. The residue was dissolved in a mixture of ethyl acetate (19 ml) and methanol (1 ml) and the insolubles removed by filtration. The solvent was removed from the filtrate by evaporation and the residue was purified by column chromatography eluting with methylene chloride/acetonitrile/methanol (50/45/5). The purified product was dissolved in hot methylene chloride and saturated ethereal hydrogen chloride was added. The mixture was concentrated to half volume by evaporation, the resulting precipitate was collected by filtration and dried under vacuum at 70° C. to give 4-(4- chloro-2-fluoroanilino)-6-methoxy-7-((3-pyridyl)methoxy)quinazoline hydrochloride(103 mg, 25%).

reactant | 3-(Chloromethyl)pyridine hydrochloride | 2 mmol, 328 mg | Cl.ClCC=1C=NC=CC1
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 1 mmol, 319.5 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | potassium carbonate | 3.2 mmol, 442 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.2 mmol, 33 mg | [I-].[K+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4-(4- chloro-2-fluoroanilino)-6-methoxy-7-((3-pyridyl)methoxy)quinazoline hydrochloride | 103 mg, 25% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC=2C=NC=CC2)C=C1)F | InChI=1S/C21H16ClFN4O2.ClH/c1-28-19-8-15-18(9-20(19)29-11-13-3-2-6-24-10-13)25-12-26-21(15)27-17-5-4-14(22)7-16(17)23;/h2-10,12H,11H2,1H3,(H,25,26,27);1H
